US07163937B2
Preparation C1, Step 1: A 22% solution of sodium ethoxide in ethanol (53 mL, 165 mmol) was added dropwise to a magnetically stirred suspension of tert-butylcarbamidine hydrochloride (20.0 g, 146 mmol) in ethanol (100 mL). When the addition was complete, the yellow suspension was warmed to 50° C., the heating mantle was removed, and a solution of mucobromic acid (15.7 g, 61 mmol) in ethanol (50 mL) was added dropwise at a rate which did not allow the temperature to exceed 55° C. When this addition was complete, a 22% solution of sodium ethoxide in ethanol (32 mL, 98 mmol) was added dropwise, then the mixture was allowed to cool to room temperature. The suspension was filtered, the solids were rinsed with ethanol (2×20 mL), and the combined filtrates were concentrated in-vacuo. The residue thus obtained was stirred in 2 N aqueous HCl (30 mL). The resulting solids were collected by filtration, rinsed with ice-cold water (2×20 mL), and air dried to yield 12.1 g of 5-Bromo-2-tert-butyl-pyrimidine-4-carboxylic acid as a beige powder. MS (ES+)=259, 261 (M+H)+.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | tert-butylcarbamidine hydrochloride | 146 mmol, 20.0 g | CC(C)(C)C(=N)N.Cl
reactant | mucobromic acid | 61 mmol, 15.7 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | HCl | 2 N, 30 mL | Cl | ClH
solvent | ethanol | 98 mmol, 32 mL | C(C)O | C2H6O
solvent | ethanol | 165 mmol, 53 mL | C(C)O | C2H6O
product | 5-Bromo-2-tert-butyl-pyrimidine-4-carboxylic acid | 12.1 g | BrC=1C(=NC(=NC1)C(C)(C)C)C(=O)O | C9H11BrN2O2
